US08138340B2
3-Oxazol-4-yl-propan-1-ol
To a sol. of 3-oxazol-4-yl-acrylic acid ethyl ester (13.1 g, 90.5 mmol) in dry CH2Cl2 (50 mL) at −78° C. was added dropwise DIBAL (1M in hexane, 181 mL, 181 mmol). The reaction mixture was stirred at −78° C. for 1 h, then was allowed to warm slowly to rt while being stirred overnight. Aq. sat. potassium sodium tartrate was added, and the aq. phase was extracted three times with CH2Cl2. The combined org. extracts were dried over MgSO4, filtered, and concentrated under reduced pressure. This crude product was purified by FC(CH2Cl2/MeOH; 49:1→48:2→47:3→46:4→45:5). To a sol. of this material in dry EtOH (120 mL) was added Pd on charcoal (10%, 700 mg), and the mixture was stirred at rt under H2 for 3 h. The mixture was filtered over Celite and the filtrate was concentrated under reduced pressure. Drying the residue under high vacuum yielded the title compound (8.45 g, 73%). LC-MS: tR=0.45, ES+: 128.15.

reactant | 3-oxazol-4-yl-acrylic acid ethyl ester | 90.5 mmol, 13.1 g | C(C)OC(C=CC=1N=COC1)=O | C8H9NO3
reactant | DIBAL | 181 mmol, 1M, 181 mL | CC(C)C[AlH]CC(C)C
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | 3-Oxazol-4-yl-propan-1-ol | 8.45 g, 73% | O1C=NC(=C1)CCCO | C6H9NO2
